### PR TITLE
[Merged by Bors] - Add Commute.orderOf_mul_pow_eq_lcm

### PR DESCRIPTION
**Pull request by riccardobrasca**
We add `Commute.orderOf_mul_pow_eq_lcm`: if two commuting elements `x` and `y` of a monoid have order `n` and `m`, there is an element of order `lcm n m`. The result actually gives an explicit (computable) element, written as the product of a power of `x` and a power of `y`.

Co-authored-by: Junyan Xu <[junyanxu.math@gmail.com](mailto:junyanxu.math@gmail.com)>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by riccardobrasca** [comment]
Note that I put the result in `Mathlib.GroupTheory.Exponent` rather than in `Mathlib.GroupTheory.OrderOfElement` to not changing imports too much.

File: Mathlib/Data/Nat/Factorization/Basic.lean [hunk 1]
```diff
@@ -651,6 +651,64 @@ theorem factorization_lcm {a b : ℕ} (ha : a ≠ 0) (hb : b ≠ 0) :
   exact (min_add_max _ _).symm
 #align nat.factorization_lcm Nat.factorization_lcm
 
+/-- If `a = ∏ pᵢ ^ nᵢ` and `b = ∏ pᵢ ^ mᵢ`, then `factorization_lcm_left = ∏ pᵢ ^ kᵢ`, where
+`kᵢ = pᵢ` if `mᵢ ≤ nᵢ` and `0` otherwise. -/
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Nat/Factorization/Basic.lean:655]: `kᵢ = pᵢ` doesn't sound right, `pᵢ` is the prime

File: Mathlib/GroupTheory/Exponent.lean [hunk 2]
```diff
@@ -286,6 +286,61 @@ theorem _root_.Nat.Prime.exists_orderOf_eq_pow_factorization_exponent {p : ℕ}
...
+
+variable {G} in
+open Nat in
+/-- If two commuting elements `x` and `y` of a monoid have order `n` and `m`, there is an element
+of order `lcm n m`. The result actually gives an explicit (computable) element, written as the
+product of a power of `x` and a power of `y`. -/
+lemma _root_.Commute.orderOf_mul_pow_eq_lcm {x y : G} (h : Commute x y) (hx : orderOf x ≠ 0)
+    (hy : orderOf y ≠ 0) :
+    orderOf (x ^ (orderOf x / (factorization_lcm_left (orderOf x) (orderOf y))) *
+    y ^ (orderOf y / factorization_lcm_right (orderOf x) (orderOf y))) =
```
Comment (Ruben-VandeVelde) [inline Mathlib/GroupTheory/Exponent.lean:308]: I think this line should be indented a bit more

File: Mathlib/Data/Nat/Factorization/Basic.lean [hunk 3]
```diff
@@ -651,6 +651,64 @@ theorem factorization_lcm {a b : ℕ} (ha : a ≠ 0) (hb : b ≠ 0) :
...
+
+/-- If `a = ∏ pᵢ ^ nᵢ` and `b = ∏ pᵢ ^ mᵢ`, then `factorization_lcm_right = ∏ pᵢ ^ kᵢ`, where
+`kᵢ = pᵢ` if `nᵢ ≤ mᵢ` and `0` otherwise. -/
+def factorization_lcm_right (a b : ℕ) := (Nat.lcm a b).factorization.prod fun p n ↦
+  if b.factorization p ≤ a.factorization p then 1 else p ^ n
+
+variable (a b)
+
+lemma factorization_lcm_left_ne_zero :
+    factorization_lcm_left a b ≠ 0 := by
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Nat/Factorization/Basic.lean:667]: Shouldn't conclusions say `0 < ..`?

File: Mathlib/GroupTheory/Exponent.lean [hunk 4]
```diff
@@ -286,6 +286,61 @@ theorem _root_.Nat.Prime.exists_orderOf_eq_pow_factorization_exponent {p : ℕ}
...
+  contrapose! h'; rwa [← h']
+
+variable {G} in
+open Nat in
+/-- If two commuting elements `x` and `y` of a monoid have order `n` and `m`, there is an element
+of order `lcm n m`. The result actually gives an explicit (computable) element, written as the
+product of a power of `x` and a power of `y`. -/
+lemma _root_.Commute.orderOf_mul_pow_eq_lcm {x y : G} (h : Commute x y) (hx : orderOf x ≠ 0)
+    (hy : orderOf y ≠ 0) :
+    orderOf (x ^ (orderOf x / (factorization_lcm_left (orderOf x) (orderOf y))) *
```
Comment (Ruben-VandeVelde) [inline Mathlib/GroupTheory/Exponent.lean:307]: Would it be easier or harder to use this if you made the element a `def`?

Comment (riccardobrasca) [reply Mathlib/GroupTheory/Exponent.lean:307]: I think it would be more or less the same. I can of course extract all the various properties I need, but the proof is ugly just because it concerns stuff like `n / (gcd (n/a) a)`, and `n` and `a` both depend on `x` and `y`, so the need to use  `nth-rewrite` a lot.

File: Mathlib/Data/Nat/Factorization/Basic.lean (hunk 3 above)
Comment (riccardobrasca) [reply Mathlib/Data/Nat/Factorization/Basic.lean:667]: Good idea.

File: Mathlib/GroupTheory/Exponent.lean [hunk 5]
```diff
@@ -286,6 +286,59 @@ theorem _root_.Nat.Prime.exists_orderOf_eq_pow_factorization_exponent {p : ℕ}
 #align nat.prime.exists_order_of_eq_pow_factorization_exponent Nat.Prime.exists_orderOf_eq_pow_factorization_exponent
 #align nat.prime.exists_order_of_eq_pow_padic_val_nat_add_exponent Nat.Prime.exists_addOrderOf_eq_pow_padic_val_nat_add_exponent
 
+open Nat in
+lemma _root_.Nat.coprime_factorization_lcm_left_factorization_lcm_right (a b : Nat) :
```
Comment (MichaelStollBayreuth) [inline Mathlib/GroupTheory/Exponent.lean:290]: I would also put this into `[Mathlib/Data/Nat/Factorization/Basic.lean](https://github.com/leanprover-community/mathlib4/pull/11235/files#diff-5a35c7fed7b39fd34329e2d6cea2700838ca70eb25ce505a38c289e0b093a94d)` (unless it needs some import that is missing there) since it is a relevant property of `factorization_lcm_left` and `factorization_lcm_right` and not specific to group exponents.

Comment (riccardobrasca) [reply Mathlib/GroupTheory/Exponent.lean:290]: Ah yes, I forgot to mention it: it needs new imports. But I realize that `Factorization.Basic` already has pretty heavy imports, maybe it's not really a problem. Let me try.

Comment (riccardobrasca) [reply Mathlib/GroupTheory/Exponent.lean]: I've moved it, adding the import. I think it is ok.

File: Mathlib/GroupTheory/Exponent.lean [hunk 6]
```diff
@@ -286,6 +286,59 @@ theorem _root_.Nat.Prime.exists_orderOf_eq_pow_factorization_exponent {p : ℕ}
...
+  refine coprime_pow_primes _ _ (prime_of_mem_primeFactors hp) (prime_of_mem_primeFactors hq) ?_
+  contrapose! h'; rwa [← h']
+
+variable {G} in
+open Nat in
+/-- If two commuting elements `x` and `y` of a monoid have order `n` and `m`, there is an element
+of order `lcm n m`. The result actually gives an explicit (computable) element, written as the
+product of a power of `x` and a power of `y`. -/
+lemma _root_.Commute.orderOf_mul_pow_eq_lcm {x y : G} (h : Commute x y) (hx : orderOf x ≠ 0)
+    (hy : orderOf y ≠ 0) :
```
[the remark this answers is not in the document]
Comment (riccardobrasca) [reply Mathlib/GroupTheory/Exponent.lean:300]: Done.

File: Mathlib/Data/Nat/Factorization/Basic.lean [hunk 7]
```diff
@@ -651,6 +652,77 @@ theorem factorization_lcm {a b : ℕ} (ha : a ≠ 0) (hb : b ≠ 0) :
...
+
+variable {a b}
+
+lemma factorization_lcm_left_mul_factorization_lcm_right (ha : a ≠ 0) (hb : b ≠ 0) :
+    (factorization_lcm_left a b) * (factorization_lcm_right a b) = lcm a b := by
+  rw [← factorization_prod_pow_eq_self (lcm_ne_zero ha hb), factorization_lcm_left,
+    factorization_lcm_right, ← prod_mul]
+  congr; ext p n; split_ifs <;> simp
+
+lemma factorization_lcm_left_dvd (ha : a ≠ 0) (hb : b ≠ 0) : factorization_lcm_left a b ∣ a := by
```
Comment (MichaelStollBayreuth) [inline Mathlib/Data/Nat/Factorization/Basic.lean:706]:
```suggestion
lemma factorization_lcm_left_dvd : factorization_lcm_left a b ∣ a := by
  rcases eq_or_ne a 0 with rfl | ha
  · simp only [dvd_zero]
  rcases eq_or_ne b 0 with rfl | hb
  · simp [factorization_lcm_left]
```

File: Mathlib/Data/Nat/Factorization/Basic.lean [hunk 8]
```diff
@@ -651,6 +652,77 @@ theorem factorization_lcm {a b : ℕ} (ha : a ≠ 0) (hb : b ≠ 0) :
...
+  nth_rewrite 2 [← factorization_prod_pow_eq_self ha]
+  rw [prod_of_support_subset (s := (lcm a b).factorization.support)]
+  · apply prod_dvd_prod_of_dvd; rintro p -; dsimp only; split_ifs with le
+    · rw [factorization_lcm ha hb]; apply pow_dvd_pow; exact sup_le le_rfl le
+    · apply one_dvd
+  · intro p hp; rw [mem_support_iff] at hp ⊢
+    rw [factorization_lcm ha hb]; exact (lt_sup_iff.mpr <| .inl <| Nat.pos_of_ne_zero hp).ne'
+  · intros; rw [pow_zero]
+
+lemma factorization_lcm_right_dvd (ha : a ≠ 0) (hb : b ≠ 0) : factorization_lcm_right a b ∣ b := by
```
Comment (MichaelStollBayreuth) [inline Mathlib/Data/Nat/Factorization/Basic.lean:716]:
```suggestion
lemma factorization_lcm_right_dvd : factorization_lcm_right a b ∣ b := by
  rcases eq_or_ne a 0 with rfl | ha
  · simp [factorization_lcm_right]
  rcases eq_or_ne b 0 with rfl | hb
  · simp only [dvd_zero]
```

File: Mathlib/Data/Nat/Factorization/Basic.lean [hunk 9]
```diff
@@ -651,6 +652,86 @@ theorem factorization_lcm {a b : ℕ} (ha : a ≠ 0) (hb : b ≠ 0) :
...
+  · simp only [dvd_zero]
+  nth_rewrite 2 [← factorization_prod_pow_eq_self hb]
+  rw [prod_of_support_subset (s := (lcm a b).factorization.support)]
+  · apply Finset.prod_dvd_prod_of_dvd; rintro p -; dsimp only; split_ifs with le
+    · apply one_dvd
+    · rw [factorization_lcm ha hb]; apply pow_dvd_pow; exact sup_le (not_le.1 le).le le_rfl
+  · intro p hp; rw [mem_support_iff] at hp ⊢
+    rw [factorization_lcm ha hb]; exact (lt_sup_iff.mpr <| .inr <| Nat.pos_of_ne_zero hp).ne'
+  · intros; rw [pow_zero]
+
```
Comment (MichaelStollBayreuth) [inline Mathlib/Data/Nat/Factorization/Basic.lean:734]: Add
```suggestion

lemma div_gcd_mul_div_gcd_eq_lcm (a b : ℕ) :
    a / a.gcd (a / factorization_lcm_left a b) * (b / b.gcd (b / factorization_lcm_right a b)) =
      lcm a b := by
  rcases eq_or_ne a 0 with rfl | ha
  · simp only [Nat.zero_div, gcd_self, Nat.div_zero, zero_mul, lcm_zero_left]
  rcases eq_or_ne b 0 with rfl | hb
  · simp only [Nat.zero_div, gcd_self, Nat.div_zero, mul_zero, lcm_zero_right]
  have h₁ := factorization_lcm_left_pos a b
  have h₂ := factorization_lcm_right_pos a b
  obtain ⟨ka, hka⟩ := factorization_lcm_left_dvd a b
  obtain ⟨kb, hkb⟩ := factorization_lcm_right_dvd a b
  have hka' : ka ∣ a := ⟨factorization_lcm_left a b, mul_comm ka _ ▸ hka⟩
  have hkb' : kb ∣ b := ⟨factorization_lcm_right a b, mul_comm kb _ ▸ hkb⟩
  have hka₀ : 0 < ka := Nat.pos_of_ne_zero fun H ↦ ha <| Nat.zero_dvd.mp <| H ▸ hka'
  have hkb₀ : 0 < kb := Nat.pos_of_ne_zero fun H ↦ hb <| Nat.zero_dvd.mp <| H ▸ hkb'
  rw [Nat.div_eq_of_eq_mul_right h₁ hka, Nat.div_eq_of_eq_mul_right h₂ hkb,
    gcd_eq_right_iff_dvd.mp hka', gcd_eq_right_iff_dvd.mp hkb',
    Nat.div_eq_of_eq_mul_left hka₀ hka, Nat.div_eq_of_eq_mul_left hkb₀ hkb]
  exact factorization_lcm_left_mul_factorization_lcm_right ha hb
```
and use that below.

Comment (MichaelStollBayreuth) [reply Mathlib/Data/Nat/Factorization/Basic.lean:734]: (And similarly for the coprimality statement.)

Comment (MichaelStollBayreuth) [reply Mathlib/Data/Nat/Factorization/Basic.lean:734]: Maybe define abbreviations for `div_gcd_mul_div_gcd_eq_lcm` and `b / b.gcd (b / factorization_lcm_right a b)`?
Are these actually the same as `facotization_lcm_right b a` and `factorization_lcm_left b a`?
If so, it may be simpler to just use these later (and prove the relevant relations here).

File: Mathlib/GroupTheory/Exponent.lean [hunk 10]
```diff
@@ -286,6 +286,65 @@ theorem _root_.Nat.Prime.exists_orderOf_eq_pow_factorization_exponent {p : ℕ}
...
+explicit formula. -/
+@[to_additive "If two commuting elements `x` and `y` of an additive monoid have order `n` and `m`,
+there is an element of order `lcm n m`. The result actually gives an explicit (computable) element,
+written as the sum of a multiple of `x` and a multiple of `y`. See also the result below if you
+don't need the explicit formula."]
+lemma _root_.Commute.orderOf_mul_pow_eq_lcm {x y : G} (h : Commute x y) (hx : orderOf x ≠ 0)
+    (hy : orderOf y ≠ 0) :
+    orderOf (x ^ (orderOf x / (factorization_lcm_left (orderOf x) (orderOf y))) *
+      y ^ (orderOf y / factorization_lcm_right (orderOf x) (orderOf y))) =
+      Nat.lcm (orderOf x) (orderOf y) := by
```
Comment (alreadydone) [inline Mathlib/GroupTheory/Exponent.lean:303]: Golf:
```
variable {G}
lemma orderOf_pow_of_dvd {x : G} {n : ℕ} (hn : n ≠ 0) (dvd : n ∣ orderOf x) :
    orderOf (x ^ n) = orderOf x / n := by rw [orderOf_pow' _ hn, Nat.gcd_eq_right dvd]

lemma orderOf_pow_orderOf_div {x : G} {n : ℕ} (hx : orderOf x ≠ 0) (hn : n ∣ orderOf x) :
    orderOf (x ^ (orderOf x / n)) = n := by
  rw [orderOf_pow_of_dvd _ (Nat.div_dvd_of_dvd hn), Nat.div_div_self hn hx]
  rw [← Nat.div_mul_cancel hn] at hx; exact left_ne_zero_of_mul hx
/- above: move to OrderOfElement -/

lemma _root_.Commute.orderOf_mul_pow_eq_lcm {x y : G} (h : Commute x y) (hx : orderOf x ≠ 0)
    (hy : orderOf y ≠ 0) :
    orderOf (x ^ (orderOf x / (factorization_lcm_left (orderOf x) (orderOf y))) *
      y ^ (orderOf y / factorization_lcm_right (orderOf x) (orderOf y))) =
      Nat.lcm (orderOf x) (orderOf y) := by
  rw [(h.pow_pow _ _).orderOf_mul_eq_mul_orderOf_of_coprime]
  all_goals iterate 2 rw [orderOf_pow_orderOf_div]; try rw [Coprime]
  all_goals simp [factorization_lcm_left_mul_factorization_lcm_right, factorization_lcm_left_dvd,
```

File: Mathlib/Data/Nat/Factorization/Basic.lean (hunk 9 above)
Comment (riccardobrasca) [reply Mathlib/Data/Nat/Factorization/Basic.lean:734]: > Add
> 
> and use that below.

This is surely a general lemma unrelated to `factorization_lcm_left` and `factorization_lcm_right`, let me see.

File: Mathlib/Data/Nat/GCD/Basic.lean [hunk 11]
```diff
@@ -344,4 +344,22 @@ theorem Coprime.mul_add_mul_ne_mul {m n a b : ℕ} (cop : Coprime m n) (ha : a 
...
+  have h₂ : 0 < y := Nat.pos_of_ne_zero hy'
+  obtain ⟨ka, hka⟩ := hx
+  obtain ⟨kb, hkb⟩ := hy
+  have hka' : ka ∣ a := ⟨x, mul_comm ka _ ▸ hka⟩
+  have hkb' : kb ∣ b := ⟨y, mul_comm kb _ ▸ hkb⟩
+  have hka₀ : 0 < ka := Nat.pos_of_ne_zero fun H ↦ ha <| Nat.zero_dvd.mp <| H ▸ hka'
+  have hkb₀ : 0 < kb := Nat.pos_of_ne_zero fun H ↦ hb <| Nat.zero_dvd.mp <| H ▸ hkb'
+  rw [Nat.div_eq_of_eq_mul_right h₁ hka, Nat.div_eq_of_eq_mul_right h₂ hkb,
+    gcd_eq_right_iff_dvd.mp hka', gcd_eq_right_iff_dvd.mp hkb',
+    Nat.div_eq_of_eq_mul_left hka₀ hka, Nat.div_eq_of_eq_mul_left hkb₀ hkb]
```
Comment (alreadydone) [inline Mathlib/Data/Nat/GCD/Basic.lean:363]: We shouldn't need this as it's a simple combination of existing lemmas:
```suggestion
  rw [Nat.gcd_eq_right (Nat.div_dvd_of_dvd hx), Nat.gcd_eq_right (Nat.div_dvd_of_dvd hy),
    Nat.div_div_self hx ha, Nat.div_div_self hy hb]
```

Comment (riccardobrasca) [reply Mathlib/Data/Nat/GCD/Basic.lean]: Mmm, maybe you're right.

**Comment by riccardobrasca** [comment]
I think @alreadydone is the best way of handling this, using `orderOf_pow_orderOf_div` the proof becomes very reasonable.

I have to stop now, but thanks all for the suggestions!

File: Mathlib/Data/Nat/Factorization/Basic.lean [hunk 12]
```diff
@@ -651,6 +652,86 @@ theorem factorization_lcm {a b : ℕ} (ha : a ≠ 0) (hb : b ≠ 0) :
   exact (min_add_max _ _).symm
 #align nat.factorization_lcm Nat.factorization_lcm
 
+/-- If `a = ∏ pᵢ ^ nᵢ` and `b = ∏ pᵢ ^ mᵢ`, then `factorization_lcm_left = ∏ pᵢ ^ kᵢ`, where
+`kᵢ = nᵢ` if `mᵢ ≤ nᵢ` and `0` otherwise. -/
+def factorization_lcm_left (a b : ℕ) := (Nat.lcm a b).factorization.prod fun p n ↦
+  if b.factorization p ≤ a.factorization p then p ^ n else 1
+
+/-- If `a = ∏ pᵢ ^ nᵢ` and `b = ∏ pᵢ ^ mᵢ`, then `factorization_lcm_right = ∏ pᵢ ^ kᵢ`, where
+`kᵢ = mᵢ` if `nᵢ ≤ mᵢ` and `0` otherwise. -/
```
Comment (sgouezel) [inline Mathlib/Data/Nat/Factorization/Basic.lean:661]:
```suggestion
`kᵢ = mᵢ` if `mᵢ ≤ nᵢ` and `0` otherwise. -/
```

**Review by sgouezel — COMMENTED** [review]
Isn't `factorization_lcm_right a b` just `factorization_lcm_left b a`? If so, I'm not sure it's worth having the two functions -- and half the lemmas can go, as they are straightforward consequences of the symmetric version.

File: Mathlib/Data/Nat/Factorization/Basic.lean [hunk 13]
```diff
@@ -651,6 +652,86 @@ theorem factorization_lcm {a b : ℕ} (ha : a ≠ 0) (hb : b ≠ 0) :
   exact (min_add_max _ _).symm
 #align nat.factorization_lcm Nat.factorization_lcm
 
+/-- If `a = ∏ pᵢ ^ nᵢ` and `b = ∏ pᵢ ^ mᵢ`, then `factorization_lcm_left = ∏ pᵢ ^ kᵢ`, where
+`kᵢ = nᵢ` if `mᵢ ≤ nᵢ` and `0` otherwise. -/
+def factorization_lcm_left (a b : ℕ) := (Nat.lcm a b).factorization.prod fun p n ↦
+  if b.factorization p ≤ a.factorization p then p ^ n else 1
```
Comment (eric-wieser) [inline Mathlib/Data/Nat/Factorization/Basic.lean:658]:
```suggestion
def factorization_lcm_left (a b : ℕ) : ℕ :=
  (Nat.lcm a b).factorization.prod fun p n ↦
    if b.factorization p ≤ a.factorization p then p ^ n else 1
```

**Comment by MichaelStollBayreuth** [comment]
> Isn't `factorization_lcm_right a b` just `factorization_lcm_left b a`?

I don't think so: there is a difference when the same power of `p` divides both `a` and `b` exactly, in which case it shows up in only one of them (otherwise you could not get two coprime factors whose product is the lcm).

**Comment by riccardobrasca** [comment]
> Isn't `factorization_lcm_right a b` just `factorization_lcm_left b a`? If so, I'm not sure it's worth having the two functions -- and half the lemmas can go, as they are straightforward consequences of the symmetric version.

Almost, but not really: `factorization_lcm_left 2 2 = 2`, but `factorization_lcm_right 2 2 = 1`. The only difference is for primes that appears with the same exponent, we put them in `factorization_lcm_left 2 2` (this is arbitrary of course, but they have to go somewhere).

**Comment by sgouezel** [comment]
You're right, sorry. Maybe add a comment about that in one of the definitions?

File: Mathlib/Data/Nat/Factorization/Basic.lean [hunk 14]
```diff
@@ -651,6 +652,86 @@ theorem factorization_lcm {a b : ℕ} (ha : a ≠ 0) (hb : b ≠ 0) :
   exact (min_add_max _ _).symm
 #align nat.factorization_lcm Nat.factorization_lcm
 
+/-- If `a = ∏ pᵢ ^ nᵢ` and `b = ∏ pᵢ ^ mᵢ`, then `factorization_lcm_left = ∏ pᵢ ^ kᵢ`, where
+`kᵢ = nᵢ` if `mᵢ ≤ nᵢ` and `0` otherwise. -/
```
[the remark this answers is not in the document]
Comment (riccardobrasca) [reply Mathlib/Data/Nat/Factorization/Basic.lean:656]: The exponent is `0`, for example `factorization_lcm_left 4 3 = 3`: writing `4 = 2 ^ 2 * 3 ^ 0` and `3 = 2^0 * 3 ^ 1`, then `factorization_lcm_left = 2 ^ 2 * 3 ^ 0`. In practice `factorization_lcm_left` only has the primes such the exponent in `a` is greater or equal to the exponent in `b` (with the same exponent as `a`). `factorization_lcm_right` does the opposite (with the difference that it keeps the primes that have strictly bigger exponent in `b`).

[the remark this answers is not in the document]
Comment (riccardobrasca) [reply Mathlib/Data/Nat/Factorization/Basic.lean:656]: The point is that in our use of [Finsupp.prod](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/BigOperators/Finsupp.html#Finsupp.prod) we use the `Nat.factorization` only in the `if` condition, in the result we give the value by hand.

File: Mathlib/Data/Nat/Factorization/Basic.lean [hunk 15]
```diff
@@ -651,6 +652,94 @@ theorem factorization_lcm {a b : ℕ} (ha : a ≠ 0) (hb : b ≠ 0) :
...
+  · simp only [h, ↓reduceIte, pow_eq_zero_iff', ne_eq] at H
+    simpa [H.1] using H.2
+
+lemma coprime_factorizationLCMLeft_factorizationLCMRight :
+    (factorizationLCMLeft a b).Coprime (factorizationLCMRight a b) := by
+  rw [factorizationLCMLeft, factorizationLCMRight]
+  refine coprime_prod_left_iff.mpr fun p hp ↦ coprime_prod_right_iff.mpr fun q hq ↦ ?_
+  dsimp only; split_ifs with h h'
+  any_goals apply coprime_one_left
+  · apply coprime_one_right
```
Comment (sgouezel) [inline Mathlib/Data/Nat/Factorization/Basic.lean:701]:
```suggestion
  any_goals simp only [coprime_one_right_eq_true, coprime_one_left_eq_true] 
```
avoids the weird goal management below by killing all goals but one at once.

**Review by sgouezel — COMMENTED** [review]
bors d+
Thanks!

File: Mathlib/Data/Nat/Factorization/Basic.lean [hunk 16]
```diff
@@ -651,6 +652,93 @@ theorem factorization_lcm {a b : ℕ} (ha : a ≠ 0) (hb : b ≠ 0) :
...
+
+lemma factorizationLCMLeft_mul_factorizationLCMRight (ha : a ≠ 0) (hb : b ≠ 0) :
+    (factorizationLCMLeft a b) * (factorizationLCMRight a b) = lcm a b := by
+  rw [← factorization_prod_pow_eq_self (lcm_ne_zero ha hb), factorizationLCMLeft,
+    factorizationLCMRight, ← prod_mul]
+  congr; ext p n; split_ifs <;> simp
+
+variable (a b)
+
+lemma factorizationLCMLeft_dvd : factorizationLCMLeft a b ∣ a := by
```
Comment (AntoineChambert-Loir) [inline Mathlib/Data/Nat/Factorization/Basic.lean:714]: This is not so important, but maybe call if factorizationLCLLeft_dvd_left

File: Mathlib/Data/Nat/Factorization/Basic.lean [hunk 17]
```diff
@@ -651,6 +652,93 @@ theorem factorization_lcm {a b : ℕ} (ha : a ≠ 0) (hb : b ≠ 0) :
...
+  nth_rewrite 2 [← factorization_prod_pow_eq_self ha]
+  rw [prod_of_support_subset (s := (lcm a b).factorization.support)]
+  · apply prod_dvd_prod_of_dvd; rintro p -; dsimp only; split_ifs with le
+    · rw [factorization_lcm ha hb]; apply pow_dvd_pow; exact sup_le le_rfl le
+    · apply one_dvd
+  · intro p hp; rw [mem_support_iff] at hp ⊢
+    rw [factorization_lcm ha hb]; exact (lt_sup_iff.mpr <| .inl <| Nat.pos_of_ne_zero hp).ne'
+  · intros; rw [pow_zero]
+
+lemma factorizationLCMRight_dvd : factorizationLCMRight a b ∣ b := by
```
Comment (AntoineChambert-Loir) [inline Mathlib/Data/Nat/Factorization/Basic.lean:728]: … and ..._right

File: Mathlib/GroupTheory/Exponent.lean [hunk 18]
```diff
@@ -286,6 +286,38 @@ theorem _root_.Nat.Prime.exists_orderOf_eq_pow_factorization_exponent {p : ℕ}
...
+    (hy : orderOf y ≠ 0) :
+    orderOf (x ^ (orderOf x / (factorizationLCMLeft (orderOf x) (orderOf y))) *
+      y ^ (orderOf y / factorizationLCMRight (orderOf x) (orderOf y))) =
+      Nat.lcm (orderOf x) (orderOf y) := by
+  rw [(h.pow_pow _ _).orderOf_mul_eq_mul_orderOf_of_coprime]
+  all_goals iterate 2 rw [orderOf_pow_orderOf_div]; try rw [Coprime]
+  all_goals simp [factorizationLCMLeft_mul_factorizationLCMRight, factorizationLCMLeft_dvd,
+    factorizationLCMRight_dvd, coprime_factorizationLCMLeft_factorizationLCMRight, hx, hy]
+
+/-- If two commuting elements `x` and `y` of a monoid have order `n` and `m`, there is an element
```
[the remark this answers is not in the document]
Comment (riccardobrasca) [reply Mathlib/GroupTheory/Exponent.lean:309]: Good idea.

File: Mathlib/Data/Nat/Factorization/Basic.lean [hunk 19]
```diff
@@ -651,6 +652,93 @@ theorem factorization_lcm {a b : ℕ} (ha : a ≠ 0) (hb : b ≠ 0) :
   exact (min_add_max _ _).symm
 #align nat.factorization_lcm Nat.factorization_lcm
 
+/-- If `a = ∏ pᵢ ^ nᵢ` and `b = ∏ pᵢ ^ mᵢ`, then `factorizationLCMLeft = ∏ pᵢ ^ kᵢ`, where
+`kᵢ = nᵢ` if `mᵢ ≤ nᵢ` and `0` otherwise. -/
+def factorizationLCMLeft (a b : ℕ) : ℕ :=
+  (Nat.lcm a b).factorization.prod fun p n ↦
+    if b.factorization p ≤ a.factorization p then p ^ n else 1
+
+/-- If `a = ∏ pᵢ ^ nᵢ` and `b = ∏ pᵢ ^ mᵢ`, then `factorizationLCMRight = ∏ pᵢ ^ kᵢ`, where
```
[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/Data/Nat/Factorization/Basic.lean:661]: If I'm wrong (I made the computation in my head), then it is even more important to add a comment — and why not prove the thing, you more or less use it later on in the proofs, I think.

[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/Data/Nat/Factorization/Basic.lean:661]: If `b = 0`, all of its exponents are `0`, so you get the same thing as the exponents of `a`, which is `a` if `a>0`, and `1` otherwise.
If `a = 0`, then all `k_i` are `0`, so you get 1.
In other words, for `(0,b)`it gives `1`, and for `(a,0)` with `a>0`, it gives `a`.
Seeing what you copied, you may have used `factorizationLCMRight`.

[the remark this answers is not in the document]
Comment (riccardobrasca) [reply Mathlib/Data/Nat/Factorization/Basic.lean:662]: The product is over the divisors of `lcm a b`, so if one of `a` or `b` is `0` then the result is `1` (I've added the results).
